Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Abdominal Pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ y/o female with a previous history of 
diverticulitis earlier this year (___) presenting from ___ 
Urgent care with LLQ pain, leukocytosis, and CT findings 
concerning for recurrent diverticulitis. 

She presented to ___ with the complaint of intermittent "crampy" 
LLQ pain that started last night. Associated symptoms include: 
pain upon sitting, nausea, HA, chills, and difficulty sleeping 
because of pain overnight. Her symptoms began with mild 
constipation ___ night, then feeling bloated and "off" on 
___ morning, by ___ night the pain in her LLQ began 
intensely when she was sitting in a performance. She describes 
her pain as "intense gas pain" which intensified over time and 
is especially concentrated on her LLQ. Her last BM was this 
morning, she reports it had an oddly elongated shape, normal 
color, no hematochezia. She reports hx of diverticulitis earlier 
this year, and states the onset of her symptoms seem similar. Pt 
has been eating soups and drinking Gatorade. She denies having 
eaten nuts, strawberries, rice or anything relatively grainy 
recently. At urgent care, she received 2 L NS, IV Zofran, IV 
morphine.  She was transferred to ___ and was planned for 
direct admit to ___ but given delay in getting a bed, was sent 
to ED.

In the ED, initial VS were 98.9 101 ___ 99% RA   

Exam notable for tachycardia, abd with LLQ tenderness, +guarding 
 

Labs showed:
___ Urgent Care: 
Na 137  K 4.3  Cl 105  HCO3 22  BUN 12  Cr 0.6
WBC 14.2 with 86% PMNs, Hg/Hct 13.1/39.5  

Imaging showed:

CT abd/pelvis with contrast (Urgent Care): diverticulitis of the 
sigmoid colon with free fluid in the pelvis, no free air or 
drainable collection(see impression below)  

Received:
___ 17:54 PO Acetaminophen 1000 mg ___  
___ 17:54 IV Ciprofloxacin 400 mg ___  
___ 17:54 IV Ondansetron 4 mg ___  
___ 17:54 IVF  NS 1000 mL ___  
___ 19:29 IV MetRONIDAZOLE (FLagyl) 500 mg 
___  
___ 19:29 IV Ondansetron 4 mg ___ 

Transfer VS were 98.1 87 111/71 18 99% RA   

Decision was made to admit to medicine for further management.  
On arrival to the floor, patient appeared comfortable and 
reports some improvement in her pain with pain meds. She 
endorsed nausea after receiving cipro dose, but no vomiting, 
previous headache that has now resolved. She confirmed the above 
history.

 
Past Medical History:
PAST MEDICAL AND SURGICAL HISTORY:  
Asthma
depression/anxiety
headaches
anemia
Diverticulitis of large intestine without perforation or abscess 
without bleeding On CT ___ 
Family history of breast cancer in mother, early ___ 
___ breast tissue on mammogram 
Colon adenoma 
PSH: C-section

 
Social History:
___
Family History:
FAMILY HISTORY:  
Asthma - Sister
___ - Father
Cancer (___) - Mother in early ___ 
___ - Mother
___ - Mother
___ - ___ Grandmother
Cancer (Lung) - Paternal Grandmother
___ - ___ Grandfather
Cancer (Lung) - Paternal Grandfather

 
Physical ___:
========================
ADMISSION PHYSICAL EXAM:
========================  
VS -  98.4 PO 121 / 77 91 18 96 RA 
GENERAL: Tired, but non-toxic appearing middle-aged woman in 
NAD, husband at bedside, good historian  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, good dentition  
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, +tender to palpation in LLQ with 
+guarding, referred pain to L with palpatin of RLQ, no rebound, 
no pain with shaking of bed
EXTREMITIES: +pedal pulses, moving all 4 extremities with 
purpose  , ambulating without assistance
NEURO: CN II-XII intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes

========================
DISCHARGE PHYSICAL EXAM:
========================
VS - Tmax 98.4 Tc 97.9 HR 75 BP 111/78 RR 18 02 sat 96% on RA  
GENERAL: No acute distress, non-toxic appearing
HEENT: AT/NC, EOMI, anicteric sclera, pink conjunctiva, MMM 
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: soft, nondistended, BS present in all quadrants but 
possibly slightly diminished, +tender to palpation in LLQ with 
+guarding and rebound (LLQ symptoms improved on re-examination). 
No tenderness, rebound, or guarding in other quadrants.
EXTREMITIES: +pedal pulses, moving all 4 extremities 
spontaneously and symmetrically
NEURO: CN II-XII intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 
 
Pertinent Results:
==============
ADMISSION LABS
==============
___ Urgent Care: 
Na 137  K 4.3  Cl 105  HCO3 22  BUN 12  Cr 0.6
WBC 14.2 with 86% PMNs, Hg/Hct 13.1/39.5  

==============
MICROBIOLOGY
==============
___ 4:55 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

==============
IMAGING
==============
___ CT Abd/Pelvis w/ contrast (from Atrius records):
IMPRESSION: Segmental wall thickening of the proximal sigmoid 
colon with surrounding extensive inflammation in an area of 
multiple diverticula most in keeping with diverticulitis. No 
drainable collection or free air. There is free fluid layering 
in the pelvis. Recommend direct visualization after resolution 
of symptoms to exclude underlying mass.

==============
DISCHARGE LABS
==============
___ 08:11AM BLOOD WBC-11.4*# RBC-4.03 Hgb-11.2# Hct-35.0 
MCV-87# MCH-27.8# MCHC-32.0# RDW-11.9 RDWSD-38.0 Plt ___
___ 08:11AM BLOOD Neuts-85.8* Lymphs-6.3* Monos-6.8 
Eos-0.4* Baso-0.3 Im ___ AbsNeut-9.78* AbsLymp-0.72* 
AbsMono-0.78 AbsEos-0.05 AbsBaso-0.03
___ 08:11AM BLOOD Glucose-108* UreaN-6 Creat-0.7 Na-136 
K-3.4 Cl-103 HCO3-21* AnGap-15
___ 08:11AM BLOOD ALT-30 AST-18 AlkPhos-68 TotBili-0.5
___ 08:11AM BLOOD Albumin-3.3* Calcium-7.8* Phos-1.7* 
Mg-2.0
___ 10:02AM BLOOD Lactate-2.4*
 
Brief Hospital Course:
___ y/o female with a recent history of diverticulitis in ___ of 
this year presenting from ___ Urgent Care with LLQ pain, 
leukocytosis, and CT findings concerning for recurrent 
uncomplicated diverticulitis. 

#Diverticulitis: The patient was treated with IV ciprofloxacin 
and flagyl, and received 5 liters of IV fluid (normal saline) 
over the course of 2 days (including fluid received at ___ 
urgent care and in the ED). She was initially kept NPO, and her 
diet was advanced to clears, and then regular as tolerated. Her 
pain and nausea were managed with tylenol, morphine, and Zofran. 
Her leukocytosis improved, as did her pain. She was discharged 
with a 10 day course of Bactrim and Flagyl, and instructed to 
follow up with her PCP. 

# Asthma: Per pt, she does not use her home inhalers on a 
regular basis and does not usually feel symptomatic.  She did 
experience mild shortness of breath on the morning of discharge 
that improved with albuterol nebulizer. We restarted her home 
albuterol.

===================
TRANSITIONAL ISSUES
===================
- Last day of Bactrim/Flagyl: ___ (chose Bactrim over Cipro 
given gets nauseated with Cipro)
- Provided with prescription for Zofran PRN for nausea
- Pt has already had a colonscopy this year following her last 
episode of diverticulitis, so will not need another one for ___ 
years
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Orsythia (levonorgestrel-ethinyl estrad) 0.1-20 mg-mcg oral 
DAILY 
2. Albuterol Inhaler ___ PUFF IH Q4H:PRN shortness of breath 
3. fluticasone 44 mcg/actuation inhalation 2 puffs BID 
4. Tretinoin 0.025% Cream 1 Appl TP QHS 
5. calcium carbonate-vitamin D3 500-100 mg-unit oral BID 

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every 8 hours 
Disp #*180 Tablet Refills:*0 
2.  MetroNIDAZOLE 500 mg PO Q8H Duration: 9 Days 
RX *metronidazole 500 mg 1 tablet(s) by mouth every 8 hours Disp 
#*25 Tablet Refills:*0 
3.  Ondansetron 4 mg PO Q8H:PRN nausea 
RX *ondansetron HCl 4 mg 1 tablet(s) by mouth every 8 hours as 
needed for nausea Disp #*6 Tablet Refills:*0 
4.  Sulfameth/Trimethoprim DS 1 TAB PO BID Duration: 9 Days 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg 1 tablet(s) by 
mouth twice daily Disp #*17 Tablet Refills:*0 
5.  Albuterol Inhaler ___ PUFF IH Q4H:PRN shortness of breath  
6.  calcium carbonate-vitamin D3 500-100 mg-unit oral BID  
7.  fluticasone 44 mcg/actuation inhalation 2 puffs BID  
8.  Orsythia (levonorgestrel-ethinyl estrad) 0.1-20 mg-mcg oral 
DAILY  
9.  Tretinoin 0.025% Cream 1 Appl TP QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: Diverticulitis

Secondary Diagnosis: Asthma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear. Ms. ___, 

It was a pleasure taking care of you at ___. 

WHY DID YOU COME TO THE HOSPITAL?
You were having abdominal pain, and had a CT scan that showed 
likely diverticulitis.

WHAT HAPPENED WHILE YOU WERE HERE?
We treated you with IV fluids, IV antibiotics, and medications 
for pain and nausea.

WHAT SHOULD YOU DO WHEN YOU LEAVE THE HOSPITAL?
You should continue to take the antibiotics we have prescribed 
for you until ___ (for a 10 day course). We have set you up 
with a PCP appointment for this ___. There is no need to 
restrict your diet, you can eat whatever you feel comfortable 
with. 

Please call your doctor or go to the emergency department if you 
experience fever >102, chills, worsening abdominal pain, or 
blood in your bowel movements or vomit.

Again, it was a pleasure taking care of you, and we're glad you 
are feeling better! 

Sincerely,

Your ___ medical team
 
Followup Instructions:
___